US09056859B2
Step B: 3-methyl-5-(prop-2-en-1-yl)-2-benzofuran-1(3H)-one
5-Bromo-3-methyl-2-benzofuran-1(3H)-one (1.00 g, 4.40 mmol) was dissolved in toluene (30 mL) treated with lithium chloride (0.560 g, 13.2 mmol), Pd(Ph3P)4 (0.254 g, 0.220 mmol), and allyl tributylstannane (1.75 g, 5.29 mmol). The reaction mixture was degassed and stirred at reflux under N2 for 3 h. The reaction mixture was poured into water and extracted with ethyl acetate; the organic layer was washed wtih brine 1×, dried and purified by MPLC eluting with 0-10% ethyl acetate/hexanes. to afford the title compound. 1H NMR (500 MHz, D-DMSO, δ in ppm): 7.75 (d, J=8 Hz, 1H), 7.50 (s, 1H), 7.42 (d, J=8 Hz, 1H), 6.00 (m, 1H), 5.66 (q, J=6.5 Hz, 1H), 5.13 (m, 2H), 3.53 (d, J=6.5 Hz, 2H), 1.54 (d, J=7 Hz, 3H).

reactant | 5-Bromo-3-methyl-2-benzofuran-1(3H)-one | 4.40 mmol, 1.00 g | BrC1=CC2=C(C(OC2C)=O)C=C1 | C9H7BrO2
reactant | lithium chloride | 13.2 mmol, 0.560 g | [Cl-].[Li+]
reactant | allyl tributylstannane | 5.29 mmol, 1.75 g | C(C=C)[Sn](CCCC)(CCCC)CCCC
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(Ph3P)4 | 0.220 mmol, 0.254 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-methyl-5-(prop-2-en-1-yl)-2-benzofuran-1(3H)-one | CC1OC(C2=C1C=C(C=C2)CC=C)=O | C12H12O2
